US05409933
Preparation of 1-cyclopropyl-6-fluoro-8-chloro-7-(3-methylaminomethyl-2,5-dihydropyrrol-1-yl)-3-(2-cyano-2-ethoxycarbonylacetyl)-1,4-dihydro-4-oxoquinoline hydrochloride
5.8 g of 1-cyclopropyl-6-fluoro-8-chloro-7-(3-(N-methyl-t-butoxycarbonylamino)methyl-2,5-dihydropyrrol-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid imidazolide and 5.66 g of ethyl cyanoacetate as starting materials were subjected to the same process as described in Example 39 to obtain 2.80 g of the object compound

reactant | 1-cyclopropyl-6-fluoro-8-chloro-7-(3-(N-methyl-t-butoxycarbonylamino)methyl-2,5-dihydropyrrol-1-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid imidazolide | 5.8 g | [N-]1C=NC=C1.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)Cl)N1CC(=CC1)CN(C)C(=O)OC(C)(C)C)F)=O)C(=O)O
reactant | ethyl cyanoacetate | 5.66 g | C(#N)CC(=O)OCC | C5H7NO2
product | 1-cyclopropyl-6-fluoro-8-chloro-7-(3-methylaminomethyl-2,5-dihydropyrrol-1-yl)-3-(2-cyano-2-ethoxycarbonylacetyl)-1,4-dihydro-4-oxoquinoline hydrochloride | 2.80 g, yield: 55% | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)Cl)N1CC(=CC1)CNC)F)=O)C(C(C(=O)OCC)C#N)=O | InChI=1S/C24H24ClFN4O4.ClH/c1-3-34-24(33)16(9-27)23(32)17-12-30(14-4-5-14)20-15(22(17)31)8-18(26)21(19(20)25)29-7-6-13(11-29)10-28-2;/h6,8,12,14,16,28H,3-5,7,10-11H2,1-2H3;1H
